US06040308
0.4 g of a 60% dispersion of NaH in oil is added with stirring to a solution of 2.82 g of trans-2,2-dimethyl-3-bromo-6-cyanochroman-4-ol in 15 ml of DMSO. The mixture is stirred for 1 hour, 2,2-dimethyl-3,4-epoxy-6-cyanochroman being formed as an intermediate. 1.43 9 of 1H-2-pyridone and a further 0.5 g of the NaH dispersion are added and the mixture is stirred for 16 hours at 20°. Working up analogously to Example 1 gives "A" (m.p. 146-148°) and "B" (m.p. 244°).

reactant | NaH | [H-].[Na+]
reactant | trans-2,2-dimethyl-3-bromo-6-cyanochroman-4-ol | 2.82 g | CC1(OC2=CC=C(C=C2[C@H]([C@@H]1Br)O)C#N)C | C12H12BrNO2
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2,2-dimethyl-3,4-epoxy-6-cyanochroman | CC1(OC2=CC=C(C=C2C2C1O2)C#N)C | C12H11NO2
